US04331664
7-[2-Propoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer)(0.5 g) was suspended in methanol (15 ml). To the suspension was added conc. hydrochloric acid (0.2 ml) and the mixture was stirred for 2 hours at ambient temperature. The reaction mixture was concentrated and the residue was washed with tetrahydrofuran, collected by filtration and dried to give 7-[2-propoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer)(0.4 g).

reactant | 7-[2-Propoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 0.5 g | C(CC)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C18H20N6O8S2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 7-[2-propoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid hydrochloride | 0.4 g | Cl.C(CC)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C=1N=C(SC1)N | InChI=1S/C17H20N6O7S2.ClH/c1-2-3-30-22-9(8-6-32-16(18)20-8)12(24)21-10-13(25)23-11(15(26)27)7(4-29-17(19)28)5-31-14(10)23;/h6,10,14H,2-5H2,1H3,(H2,18,20)(H2,19,28)(H,21,24)(H,26,27);1H/t10?,14-;/m1./s1
